US05753595
A stirred solution of 4.5 grams (10 mmole) of 3-[2-(N-acetyl-N-methylsulfonylamino)-4-chloro-6-fluorobenzoxazol-7-yl]-1-methyl-6-trifluoromethyl-2,4-(1H,3H)pyrimidinedione in 25 mL of 85% hydrazine is heated to 60° C., where it stirs for about 18 hours. After this time the reaction mixture is concentrated under reduced pressure, yielding 3-(2-methylsulfonylamino-4-chloro-6-fluorobenzoxazol-7-yl)-1-methyl-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione.

reactant | 3-[2-(N-acetyl-N-methylsulfonylamino)-4-chloro-6-fluorobenzoxazol-7-yl]-1-methyl-6-trifluoromethyl-2,4-(1H,3H)pyrimidinedione | 10 mmole, 4.5 grams | C(C)(=O)N(S(=O)(=O)C)C=1OC2=C(N1)C(=CC(=C2N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F)Cl | C16H11ClF4N4O6S
solvent | hydrazine | 25 mL | NN | H4N2
product | 3-(2-methylsulfonylamino-4-chloro-6-fluorobenzoxazol-7-yl)-1-methyl-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione | CS(=O)(=O)NC=1OC2=C(N1)C(=CC(=C2N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F)Cl | C14H9ClF4N4O5S
